US04020170
0.5 mole of 1-butyn-3-ol was coupled with 0.5 mole of propionaldehyde under the influence of ethylmagnesium bromide according to Bull.Soc.Chim.(Fr.) 425 (1956) and 3-heptyne-2,5-diol (b.p. 109°-110° C at 2 mm Hg) was obtained in 64% yield. The alkyne diol was esterified with p-toluene sulfonylchloride as described in Example 1A and 3-heptyne-2,5-ditosylate (m.p. 69.5°-70.5° C) was obtained in 76% yield. The alkyne ditosylate was oxidised with aqueous potassium permanganate as described in Example 2A, at a temperature of 5° C and heptane-3,4-dione-2,5-ditosylate was obtained in 55% yield; m.p. 120°-121.5° C (from tetrachloromethane).

reactant | 1-butyn-3-ol | 0.5 mole | C#CC(C)O | C4H6O
reactant | propionaldehyde | 0.5 mole | C(CC)=O | C3H6O
reactant | ethylmagnesium bromide | C(C)[Mg]Br
product | 3-heptyne-2,5-diol | 64% yield | CC(C#CC(CC)O)O | C7H12O2
